US09108956B2
Step 4. Synthesis of 6-(4-bromophenyl)dihydro-2H-pyran-3(4H)-one
To a round bottom flask containing 6-(4-bromophenyl)tetrahydro-2H-pyran-3-ol (638 mg, 2.48 mmol) was added DCM (16 ml). The mixture was stirred at room temperature before Dess-Martin Periodonane (1.3 g, 2.98 mmol) was added in several portions. After the addition, the reaction mixture was stirred for 2 hours before being quenched by a solution of saturated NaHCO3. The organic layer was washed with saturated NaHCO3 twice, then brine. The organic portion was dried over sodium sulfate, filtered and concentrated to afford a crude oil. Column purification afforded the title compound as a thick oil after drying (126 mg, 20% yield). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.50-7.55 (m, 2H) 7.26-7.32 (m, 2H) 4.75 (dd, J=10.61, 2.78 Hz, 1H) 4.27-4.36 (m, 1H) 4.14-4.22 (m, 1H) 2.59-2.77 (m, 2H) 2.35 (ddt, J=13.74, 6.60, 3.35, 3.35 Hz, 1H) 2.11-2.24 (m, 1H).

reactant | 6-(4-bromophenyl)tetrahydro-2H-pyran-3-ol | 2.48 mmol, 638 mg | BrC1=CC=C(C=C1)C1CCC(CO1)O | C11H13BrO2
reactant | Dess-Martin | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | DCM | 16 ml | C(Cl)Cl | CH2Cl2
product | 6-(4-bromophenyl)dihydro-2H-pyran-3(4H)-one | 20% yield | BrC1=CC=C(C=C1)C1CCC(CO1)=O | C11H11BrO2
